US04367238
A mixture of 2-methoxy-3-(o-tolylthio)benzyl alcohol (8.5 g), thionyl chloride (4.8 ml) and pyridine (3 drops) in benzene (80 ml) was stirred at room temperature and then at 80° C. for 10 minutes. The reaction mixture was treated in a similar manner to that of Example 21-(6) to give oily o-tolyl 2-methoxy-3-chloromethylphenyl thioether (8.3 g).

reactant | 2-methoxy-3-(o-tolylthio)benzyl alcohol | 8.5 g | COC1=C(CO)C=CC=C1SC1=C(C=CC=C1)C | C15H16O2S
reactant | thionyl chloride | 4.8 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | pyridine | 3 drops | N1=CC=CC=C1 | C5H5N
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | o-tolyl 2-methoxy-3-chloromethylphenyl thioether | 8.3 g | COC1=C(C=CC=C1CCl)SC=1C(=CC=CC1)C | C15H15ClOS
